US04628057
(1RS,3SR)-trans-1-n-Propyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 73, (1RS,3SR)-trans-1-n-propyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (0.9 g), triethylamine (0.4 g), carbon disulfide (0.3 g), methyl iodide (0.56 g) and 80% methanol (14 ml) are reacted and treated. The product is treated with aqueous ethanol to give the title compound (0.47 g) as pale yellow powder.

reactant | (1RS,3SR)-trans-1-n-propyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 0.9 g | C(CC)[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C15H18N2O2
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.3 g | C(=S)=S | CS2
reactant | methyl iodide | 0.56 g | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 14 ml | CO | CH4O
product | (1RS,3SR)-trans-1-n-Propyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 0.47 g | C(CC)[C@@H]1N([C@H](CC=2C3=CC=CC=C3NC12)C(=O)O)C(=S)SC | C17H20N2O2S2
